US06303790B1
38.9 ml (38.9 mMol) o-Tolylmagnesium chloride solution (1M in THF) were added over 15 minutes to a solution of 2.5 g (10.1 mMol) N-tert.-butyl-6-methyl-nicotinamide in 12.5 ml THF cooled to 0° C. The suspension obtained was stirred overnight at room temperature, then one more hour at 50° C. After cooling to 0° C., 2.1 ml (51.9 mMol) methanol were added over 30 minutes (exothermic!), followed after 10 minutes by 3.5 g (15.6 mMol) 2,3-dichloro-5,6-dicyano-benzoquinone. After one hour at room temperature, the reaction mixture was concentrated under reduced pressure to a still stirrable oil, heated to 50° C. and 100 ml tert.-butyl-methylether were added. The suspension was stirred 30 minutes at reflux, 1 hour at room temperature and filtered. The filtrate was evaporated and the residue was purified by flash chromatography (50 g SiO2, eluent: AcOEt/n-heptane 2:1) to yield 3.1 g (84.5%) N-tert.-butyl-6-methyl-4-o-tolyl-nicotinamide as a light brown resinous solid.

reactant | o-Tolylmagnesium chloride | 38.9 mMol, 1M, 38.9 ml | C1(=C(C=CC=C1)[Mg]Cl)C
reactant | N-tert.-butyl-6-methyl-nicotinamide | 10.1 mMol, 2.5 g | C(C)(C)(C)NC(C1=CN=C(C=C1)C)=O | C11H16N2O
reactant | methanol | 51.9 mMol, 2.1 ml | CO | CH4O
reactant | 2,3-dichloro-5,6-dicyano-benzoquinone | 15.6 mMol, 3.5 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | THF | 12.5 ml | C1CCOC1 | C4H8O
product | N-tert.-butyl-6-methyl-4-o-tolyl-nicotinamide | 3.1 g, 84.5% | C(C)(C)(C)NC(C1=CN=C(C=C1C1=C(C=CC=C1)C)C)=O | C18H22N2O
